US08563577B2
Preparation of (R)-quinuclidin-3-yl 2-(2,5-difluorophenylamino)-2-phenylacetate (I21)
PS-DCC (914 mg, 1.301 mmol, loading: 1.33 mmol/g) was suspended in dry THF (15 ml). 2-(2,5-Difluorophenylamino)-2-phenylacetic acid hydrochloride (I20) (195 mg, 0.65 mmol), HOBT (199 mg, 1.30 mmol), and (R)-quinuclidin-3-ol (248 mg, 1.95 mmol) were added, and the suspension was shaken at RT for 16 hours (Conversion complete by UPLC-MS). PS-DCC was removed by filtration under suction, and the filtrate was evaporated. The resulting residue was dissolved in EtOAc and washed with sat. NaHCO3, water and brine. The organic layer was separated, dried over Na2SO4, filtered and evaporated. The crude was purified by filtration through a silica-pad using DCM/MeOH=95/5 as the eluent. The title compound is collected (195 mg, 80% yield, mixture of diastereomers).

reactant | DCC | 1.301 mmol, 914 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-(2,5-Difluorophenylamino)-2-phenylacetic acid hydrochloride | 0.65 mmol, 195 mg | Cl.FC1=C(C=C(C=C1)F)NC(C(=O)O)C1=CC=CC=C1
reactant | HOBT | 1.30 mmol, 199 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | (R)-quinuclidin-3-ol | 1.95 mmol, 248 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (R)-quinuclidin-3-yl 2-(2,5-difluorophenylamino)-2-phenylacetate | 80% yield | FC1=C(C=C(C=C1)F)NC(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C21H22F2N2O2
